US08314253B2
1.4 (9RS)-(1R*,8S*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol
A solution of 15.8 g of tricyclo[6.2.2.02,7]dodeca-2,4,6,9-tetraene in 42 mL of THF was added to 82 mL of 1M BH3 in THF at 0° C. The reaction mixture was stirred overnight while the temperature reached rt. The reaction was quenched by addition of 40 mL of 0.3N NaOH solution followed by 134 mL of a 35% H2O2 solution. The mixture was extracted with Et2O, washed with H2O, dried over MgSO4 and concentrated in vacuo to obtain 17.7 g of the desired compound as yellow oil.

reactant | tricyclo[6.2.2.02,7]dodeca-2,4,6,9-tetraene | 15.8 g | C12C3=CC=CC=C3C(C=C1)CC2 | C12H12
reactant | THF | 42 mL | C1CCOC1 | C4H8O
product | (9RS)-(1R*,8S*)-Tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol | 17.7 g | [C@H]12C3=CC=CC=C3[C@@H](C(C1)O)CC2 | C12H14O
